US07776897B2
An 1M aqueous sodium hydroxide solution (10 ml) of 2-{[1-(3-chloro-4-methyl-2-thienyl)cyclopentyl]carbonyl}-N-methylhydrazinecarbothioamide (167 mg) was refluxed for 20 hours. An 1M aqueous hydrochloric acid solution was added to the reaction solution to acidify the solution and precipitated crude crystals were collected by filtration and washed with water to obtain 154 mg of 5-[1-(3-chloro-4-methyl-2-thienyl)cyclopentyl]-4-methyl-2,4-dihydro-3H-1,2,4-triazol-3-thione (pale brown solid).

reactant | 2-{[1-(3-chloro-4-methyl-2-thienyl)cyclopentyl]carbonyl}-N-methylhydrazinecarbothioamide | 167 mg | ClC1=C(SC=C1C)C1(CCCC1)C(=O)NNC(NC)=S | C13H18ClN3OS2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | sodium hydroxide | 1M, 10 ml | [OH-].[Na+]
product | 5-[1-(3-chloro-4-methyl-2-thienyl)cyclopentyl]-4-methyl-2,4-dihydro-3H-1,2,4-triazol-3-thione | 154 mg | ClC1=C(SC=C1C)C1(CCCC1)C=1N(C(NN1)=S)C | C13H16ClN3S2
